US05753664
7-[4-(4-Chlorobenzoyl)benzyl]-1,3-dimethylxanthine
To a solution of theophylline (1.80 g) in DMF (20 ml) were added potassium carbonate (1.66 g) and 4-(4-chlorobenzoyl)benzyl bromide (3.10 g) and the mixture was stirred at room temperature for 14 hours. The reaction mixture was then diluted with water and extracted with ethyl acetate. The extract was washed with saturated aqueous NaCl solution and dried over anhydrous sodium sulfate. The solvent was then distilled off and the residue was purified by silica gel column chromatography (hexane: ethyl acetate=1:4) to provide the title compound as colorless powder (2.79 g, 68%). 1 H-NMR (CDCl3) 6: 3.41(3H,s), 3.63(3H,s), 5.59(2H,s), 7.38-7.50(4H,m), 7.65(1H,s), 7.68-7.81(4H,m).

reactant | theophylline | 1.80 g | N1(C)C(=O)N(C)C=2N=CNC2C1=O | C7H8N4O2
reactant | potassium carbonate | 1.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-chlorobenzoyl)benzyl bromide | 3.10 g | ClC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrClO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-[4-(4-Chlorobenzoyl)benzyl]-1,3-dimethylxanthine | 2.79 g, 68% | ClC1=CC=C(C(=O)C2=CC=C(CN3C=NC=4N(C(N(C(C34)=O)C)=O)C)C=C2)C=C1 | C21H17ClN4O3
